US09334480B2
2-{4-[2-(3-Chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid was synthesized from 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid methyl ester, LiOH, THF, and water using a similar procedure as 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid yielding 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid.

reactant | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NCCC2=CC(=CC=C2)Cl)=O | C22H19ClN4O3
reactant | LiOH | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid | O[C@H](CNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O)C2=CC=CC=C2 | C21H18N4O4
solvent | water | O | H2O
product | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid | ClC=1C=C(C=CC1)CCNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O | C21H17ClN4O3
